US06861440B2
(2S)-1-({(1S)-2-[6-(4-Methoxy-phenyl)-2,3-dihydro-indole-1-yl]-1-methyl-ethylamino}-acetyl)-pyrrolidine-2-carbonitrile
(S)-{2-[6-(4-Methoxy-phenyl)-indol-1-yl]-1-methyl-ethyl}-carbamic acid tert-butyl ester (1.80 g) was dissolved in acetic acid (25 mL) and CH2Cl2 (10 mL) and cooled to 0° C. NaCNBH3 (1.41 g) was added in portions and the resulting mixture was allowed to stir for 4 hours. The reaction mixture was diluted with ethyl acetate and extracted with concentrated NaOH solution. The organic layer was washed with brine, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (gradient of ethyl acetate in hexanes) to give the title compound as a brown oil (1.7 g).

reactant | (S)-{2-[6-(4-Methoxy-phenyl)-indol-1-yl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | 1.80 g | C(C)(C)(C)OC(N[C@H](CN1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)OC)C)=O | C23H28N2O3
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | NaCNBH3 | 1.41 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-1-({(1S)-2-[6-(4-Methoxy-phenyl)-2,3-dihydro-indole-1-yl]-1-methyl-ethylamino}-acetyl)-pyrrolidine-2-carbonitrile | 1.7 g | COC1=CC=C(C=C1)C1=CC=C2CCN(C2=C1)C[C@H](C)NCC(=O)N1[C@@H](CCC1)C#N | C25H30N4O2
